US03954478
SYNTHESIS OF 3-ALLYLBENZOTHIAZOLIUM BROMIDE
135 g of benzothiazole and 121 g of allylbromide were mixed and the mixture was heated for 2 hours on a steam bath to solidify by crystallization. After cooling, diethyl ether was added to wash the crystals. After filtration and drying, the crystals obtained were recrystallized from ethanol. Melting point: 145°-147°C.

reactant | benzothiazole | 135 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | allylbromide | 121 g | C(C=C)Br | C3H5Br
product | 3-ALLYLBENZOTHIAZOLIUM BROMIDE | [Br-].C(C=C)[N+]1=CSC2=C1C=CC=C2 | InChI=1S/C10H10NS.BrH/c1-2-7-11-8-12-10-6-4-3-5-9(10)11;/h2-6,8H,1,7H2;1H/q+1;/p-1
